US09302991B2
<Step-1>: 2-chloro-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide (single enantiomer)
The title compound is prepared in 69% yield (296 mg, clear colorless oil) from 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (300 mg, 1.1 mmol, Amine-17, single enantiomer) and 2-chloro-6-methylpyrimidine-4-carboxylic acid (191 mg, 1.1 mmol) by the similar manner in Step-1 of Example 8.

reactant | 1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 1.1 mmol, 300 mg | Cl.CC=1C=C(C=NC1OCC(F)(F)F)C(C)N
reactant | 2-chloro-6-methylpyrimidine-4-carboxylic acid | 1.1 mmol, 191 mg | ClC1=NC(=CC(=N1)C(=O)O)C | C6H5ClN2O2
product | 2-chloro-6-methyl-N-(1-(5-methyl-6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)pyrimidine-4-carboxamide | 69% yield | ClC1=NC(=CC(=N1)C(=O)NC(C)C=1C=NC(=C(C1)C)OCC(F)(F)F)C | C16H16ClF3N4O2
